US08754103B2
To a solution of 5-(benzyloxymethyl)-6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine, prepared as described in Step 4 (700 mg, 2.1 mmol) was added methanesulfonic acid (2 mL, 70% in water) and the reaction was heated to reflux overnight. The reaction was concentrated and the residue purified by flash chromatography to yield (6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-5-yl)methanol.

reactant | 5-(benzyloxymethyl)-6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | C(C1=CC=CC=C1)OCC1=C(C=CC=2N1C(=NN2)C(F)(F)F)Cl | C15H11ClF3N3O
reactant | methanesulfonic acid | 2 mL | CS(=O)(=O)O | CH4O3S
product | (6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-5-yl)methanol | ClC=1C=CC=2N(C1CO)C(=NN2)C(F)(F)F | C8H5ClF3N3O
